* OPA810 - Rev. A
* Created by Sean Cashin; 2020-06-11
* Created with Green-Williams-Lis Current Sense Amp Macro-model Architecture
* Copyright 2020 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* AC PARAMETERS
**********************
* CLOSED-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zout vs. Freq.)
* CLOSED-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Acl vs. Freq.)
* COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR vs. Freq.)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR vs. Freq.)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en vs. Freq.)
**********************
* DC PARAMETERS
**********************
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* GAIN ERROR (Eg)
* INPUT BIAS CURRENT VS. INPUT COMMON-MODE VOLTAGE (Ib vs. Vcm)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos vs. Temp)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vout vs. Iout)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
**********************
* TRANSIENT PARAMETERS
**********************
* SLEW RATE (SR)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* OVERLOAD RECOVERY TIME (tor)
******************************************************
.subckt OPA810 IN+ IN- OUT VCC VEE
******************************************************
.MODEL R_NOISE RES (T_ABS=0)
.MODEL R_NOISELESS RES (T_ABS=-273.15)
C_C12         MID N45892  1E-15   
C_C13         N45974 MID  1E-15   
C_C17         MID N68747  1E-12   
C_C18         MID N68594  1E-12   
C_C19         MID SW_OL_OPA810  1E-12   
C_C1A         N725398 N725428  15.92E-6   
C_C1A1         N701935 N701965  3.537P   
C_C1A10         N789898 N789912  342.3F   
C_C1A4         N709083 N709113  63.66N   
C_C1A9         N704975 N705005  83.77N   
C_C1C1         N821901 N725762  159.2E-9   
C_C1C3         N725214 N725836  26.53E-15   
C_C1D         MID N725708  93.62E-15   
C_C1_0         MID N79181  23.5E-9   
C_C2         MID N694641  740E-12   
C_C3         MID N694487  740E-12   
C_C33         N406634 0  1E-15   
C_C34         N317950 0  1   
C_C35         N406794 0  1E-15   
C_C36         N894736 N892256  227.4E-12   
C_C7         N31014 MID  1E-15   
C_C8         MID N35813  1E-15   
C_C9         MID N38096  1E-15   
C_C_CMN         MID ESDN  2.5E-12   
C_C_CMP         ESDP MID  2.5E-12   
C_C_DIFF         ESDN ESDP  0.5E-12   
C_C_VCLP         VCLP MID  1E-12   
C_C_VIMON         MID VIMON  1E-9   
C_C_VOUT_S         MID VOUT_S  1E-9   
E_E2         N91498 MID CL_CLAMP MID 1
E_E3         N112292 MID OUT MID 1
E_E6         MID 0 N317950 0 1
G_G1         N725398 MID CL_CLAMP N516723 -90.91
G_G10         N73852 MID N55875 MID -1
G_G11         N55050 MID N56119 MID -1
G_G16         CL_CLAMP MID N894736 MID -1E-3
G_G2         N10570 N10561 N701965 MID -1E-3
G_G36         VCC_B 0 VCC 0 -1
G_G37         VEE_B 0 VEE 0 -1
G_G54         N694641 MID N79181 MID -1
G_G55         N701935 MID N789912 MID -222.22
G_G56         N709083 MID VCC_B MID -1.265
G_G58         N704975 MID VEE_B MID -1.664
G_G59         N789898 MID ESDP MID -29.75M
G_G6         N25816 N11984 N709113 N705005 -1E-3
G_G60         N06456 MID N799160 MID -10E-6
G_G61         ESDN MID N804105 MID -10E-6
G_G62         N821901 MID N725428 MID -100
G_G63         N892256 MID N694487 MID -1.3
G_G7         N694487 MID N694641 MID -1
G_G8         VCC_CLP MID N35813 MID -1E-3
G_G9         VEE_CLP MID N38096 MID -1E-3
G_GB         N725346 MID N725762 MID -25
G_GD4         N725214 MID N725574 MID -0.3
G_GD5         N725936 MID N725836 MID -166.7
I_I_B         N06456 MID DC 2E-12  
I_I_OS         ESDN MID DC 1E-12  
I_I_Q         VCC VEE DC 1.9E-3  
R_R1         ESDP IN+ R_NOISELESS 10E-3
R_R10         ESDN N11991 R_NOISELESS 1E-3
R_R107         VCC_B 0 R_NOISELESS 1
R_R108         N317950 0 R_NOISELESS 1E12
R_R109         VEE_B 0 R_NOISELESS 1
R_R11         MID N725346 R_NOISELESS 1
R_R110         VCC_B N406634 R_NOISELESS 1E-3
R_R111         N406634 N317950 R_NOISELESS 1E6
R_R112         N317950 N406794 R_NOISELESS 1E6
R_R113         N406794 VEE_B R_NOISELESS 1E-3
R_R133         N694487 MID R_NOISELESS 1
R_R134         N694641 MID R_NOISELESS 1
R_R135         N701935 MID R_NOISELESS 1
R_R136         N704975 MID R_NOISELESS 1
R_R137         MID N725398 R_NOISELESS 1
R_R139         MID N725214 R_NOISELESS 1
R_R140         MID N725936 R_NOISELESS 1
R_R141         N789898 MID R_NOISELESS 1
R_R145         MID N821901 R_NOISELESS 1
R_R149         N892256 MID R_NOISELESS 1
R_R150         N894736 MID R_NOISELESS 33.3
R_R151         N892256 N894736 R_NOISELESS 10
R_R1A         N725428 N725398 R_NOISELESS 10E3
R_R1A1         N701935 N701965 R_NOISELESS 1E4
R_R1A10         N789898 N789912 R_NOISELESS 1E8
R_R1A11         MID N799160 R_NOISE 15
R_R1A12         MID N804105 R_NOISE 15
R_R1A3         N704975 N705005 R_NOISELESS 1E8
R_R1A4         N709083 N709113 R_NOISELESS 1E8
R_R1C1         N725762 N821901 R_NOISELESS 10E3
R_R1C2         N725836 N725214 R_NOISELESS 1E4
R_R1D1         N725708 N725574 R_NOISELESS 10E3
R_R2         ESDN IN- R_NOISELESS 10E-3
R_R21         N11984 N25816 R_NOISELESS 1E3
R_R25         MID N28602 R_NOISELESS 1E9
R_R26         N30136 MID R_NOISELESS 1E9
R_R27         MID N30913 R_NOISELESS 1
R_R28         N31014 N30913 R_NOISELESS 1E-3
R_R29         N35669 VCC_B R_NOISELESS 1E3
R_R2A1         N701965 MID R_NOISELESS 45.2
R_R2A10         N705005 MID R_NOISELESS 19M
R_R2A11         N789912 MID R_NOISELESS 465
R_R2A13         MID N725428 R_NOISELESS 101
R_R2A4         N709113 MID R_NOISELESS 25M
R_R2C1         MID N725762 R_NOISELESS 416.7
R_R2C3         MID N725836 R_NOISELESS 60.36
R_R2D         N725574 N725346 R_NOISELESS 367.8E3
R_R3         MID ESDP R_NOISELESS 1E12
R_R30         N35813 N35669 R_NOISELESS 1E-3
R_R31         VCC_CLP MID R_NOISELESS 1E3
R_R32         N38050 VEE_B R_NOISELESS 1E3
R_R33         N38096 N38050 R_NOISELESS 1E-3
R_R34         VEE_CLP MID R_NOISELESS 1E3
R_R4         ESDN MID R_NOISELESS 1E12
R_R41         MID N50645 R_NOISELESS 1E9
R_R42         N45856 MID R_NOISELESS 1
R_R43         N45892 N45856 R_NOISELESS 1E-3
R_R44         N45974 N45986 R_NOISELESS 1E-3
R_R45         MID N45986 R_NOISELESS 1
R_R46         MID N48550 R_NOISELESS 1E9
R_R47         MID N73852 R_NOISELESS 1
R_R48         MID N55050 R_NOISELESS 1
R_R5         N709083 MID R_NOISELESS 1
R_R56         N68747 OLN R_NOISELESS 100
R_R57         N68594 OLP R_NOISELESS 100
R_R58         N69264 MID R_NOISELESS 1
R_R59         N69264 SW_OL_OPA810 R_NOISELESS 100
R_R60         MID AOLNET R_NOISELESS 1E6
R_R66         MID CL_CLAMP R_NOISELESS 1E3
R_R8         N10561 N10570 R_NOISELESS 1E3
R_R81         MID N110431 R_NOISELESS 1E9
R_R83         MID N112292 R_NOISELESS 1E9
R_R9         N10570 N11984 R_NOISELESS 1E-3
R_RDUMMY1         MID N516723 R_NOISELESS 10E3
R_RX1         N516723 N725936 R_NOISELESS 100E3
R_R_VCLP         N91498 VCLP R_NOISELESS 100
R_R_VIMON         VIMON N110431 R_NOISELESS 100
R_R_VOUT_S         VOUT_S N112292 R_NOISELESS 100
V_VCM_MAX         N30136 VCC_B 0.15
V_VCM_MIN         N28602 VEE_B -0.2
V_V_ISCN         N48550 MID -120
V_V_ISCP         N50645 MID 120
V_V_ORN         N55875 VCLP -68.5
V_V_ORP         N56119 VCLP 37.13
X_AOL_1         N31014 N11991 MID AOLNET AOL_1_OPA810 
X_AOL_2         AOLNET MID MID N79181 AOL_2_OPA810 
X_CLAWN         MID VIMON VEE_B N38050 CLAWN_OPA810 
X_CLAWP         VIMON MID N35669 VCC_B CLAWP_OPA810 
X_CL_AMP         N50645 N48550 VIMON MID N45856 N45986 CLAMP_AMP_LO_OPA810 
X_CL_SRC         N45892 N45974 CL_CLAMP MID CL_SRC_OPA810 
X_ESD_OUT         OUT VCC VEE ESD_OUT_OPA810 
X_E_N         ESDP N06456 VNSE_OPA810 
X_H1    N73852 N166377 OLN MID 08_OP_AMP_COMPLETE_H1_OPA810 
X_H2    N55050 N166817 OLP MID 08_OP_AMP_COMPLETE_H2_OPA810 
X_H3    OUT N516723 N110431 MID 08_OP_AMP_COMPLETE_H3_OPA810 
X_IQ_N         MID VIMON MID VEE IQ_SRC_OPA810 
X_IQ_P         VIMON MID VCC MID IQ_SRC_OPA810 
X_OL_SENSE         MID N69264 N68747 N68594 OL_SENSE_OPA810 
X_S1    OUT VCC_CLP N79181 MID 08_OP_AMP_COMPLETE_S1_OPA810 
X_S2    VEE_CLP OUT N79181 MID 08_OP_AMP_COMPLETE_S2_OPA810 
X_SW_OL         SW_OL_OPA810 MID N725398 N725428 SW_OL_OPA810 
X_SW_OR         CLAMP N166377 N166817 SW_OR_OPA810 
X_VCM_CLAMP         N25816 MID N30913 MID N30136 N28602 VCM_CLAMP_OPA810 
X_VOS_DRIFT         N749288 N06456 VOS_DRIFT_OPA810 
X_VOS_VS_VCM         N10561 N749288 VCC VEE VOS_VS_VCM_OPA810 
.ENDS  OPA810
*
.SUBCKT 08_OP_AMP_COMPLETE_H1_OPA810 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ENDS  08_OP_AMP_COMPLETE_H1_OPA810
*
.SUBCKT 08_OP_AMP_COMPLETE_H2_OPA810 1 2 3 4  
H_H2         3 4 VH_H2 -1
VH_H2         1 2 0V
.ENDS  08_OP_AMP_COMPLETE_H2_OPA810
*
.SUBCKT 08_OP_AMP_COMPLETE_H3_OPA810 1 2 3 4  
H_H3         3 4 VH_H3 -1E3
VH_H3         1 2 0V
.ENDS  08_OP_AMP_COMPLETE_H3_OPA810
*
.SUBCKT 08_OP_AMP_COMPLETE_S1_OPA810 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH ROFF=200E3 RON=0.5 VOFF=-1 VON=0.4
.ENDS  08_OP_AMP_COMPLETE_S1_OPA810
*
.SUBCKT 08_OP_AMP_COMPLETE_S2_OPA810 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=200E3 RON=0.5 VOFF=-1 VON=0.4
.ENDS  08_OP_AMP_COMPLETE_S2_OPA810
*
.SUBCKT AOL_1_OPA810 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-2
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_OPA810
*
.SUBCKT AOL_2_OPA810 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
.PARAM IPOS = 5.6
.PARAM INEG = -5.6
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPA810
*
.SUBCKT CLAMP_AMP_LO_OPA810 VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_OPA810
*
.SUBCKT CLAWN_OPA810 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 10E-5)
+(30, 10E-5)
+(40, 10E-5)
+(60, 10E-5)
+(70, 10E-5)
+(80, 20E-5)
+(90, 30E-5)
+(100, 40E-5)
+(110, 500E-5)
+(120, 1000E-5)
.ENDS  CLAWN_OPA810
*
.SUBCKT CLAWP_OPA810 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 8E-5)
+(30, 10E-5)
+(40, 28E-5)
+(50, 36E-5)
+(60, 50E-5)
+(70, 100E-5)
+(80, 200E-5)
+(90, 400E-5)
+(100, 800E-5)
+(110, 1600E-5)
+(120, 3200E-5)
.ENDS  CLAWP_OPA810
*
.SUBCKT CL_SRC_OPA810 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 16.8
.PARAM INEG = -16.8
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_OPA810
*
.SUBCKT ESD_OUT_OPA810 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 VCC OUT OUT VCC ESD_SW
S2 OUT VEE VEE OUT ESD_SW
.ENDS  ESD_OUT_OPA810
*
.SUBCKT IQ_SRC_OPA810 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_OPA810
*
.SUBCKT OL_SENSE_OPA810 1   2  3  4
GSW+ 1 2 VALUE = {IF((V(3,1)>10E-3 | V(4,1)>10E-3),1,0)}
.ENDS  OL_SENSE_OPA810
*
.SUBCKT SW_OL_OPA810 SW_OL_OPA810 MID CAP_L CAP_R
.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E9 VON=900E-3 VOFF=800E-3)
S1 CAP_L CAP_R SW_OL_OPA810 MID OL_SW
.ENDS  SW_OL_OPA810
*
.SUBCKT SW_OR_OPA810 CLAMP OLN OLP
.MODEL OR_SW VSWITCH(RON=10E-3 ROFF=1E9 VON=10E-3 VOFF=0)
S1 OLP CLAMP CLAMP OLP OR_SW
S2 CLAMP OLN OLN CLAMP OR_SW
.ENDS  SW_OR_OPA810
*
.SUBCKT VCM_CLAMP_OPA810 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPA810
*
.SUBCKT VNSE_OPA810 1 2
.PARAM FLW=0.1
.PARAM NLF=1190
.PARAM NVR=5.7
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPA810
*
.SUBCKT VOS_DRIFT_OPA810 VOS+ VOS-
.PARAM DC = 76.1E-6
.PARAM POL = 1
.PARAM DRIFT = 0.3E-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_OPA810
*
.SUBCKT VOS_VS_VCM_OPA810 V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(0.35, 450E-6)
+(0.4, 435E-6)
+(0.55, 275E-6)
+(0.65, 150E-6)
+(0.75, 75E-6)
+(0.85, 25E-6)
+(1, 0)
V1 1 V- 0
.ENDS  VOS_VS_VCM_OPA810
*