
.subckt SN74LVC1G123 A B CLR GND Q CEXT REXT VCC


* Trigger condition
Btrig trig 0 V=
+ if(V(B)>2 & V(A)<1 & V(CLR)>2,1,0)


* one shot timing
Ctimer timer 0 1p
Rtimer timer 0 1Meg


* create pulse
Bpulse pulse 0 V=
+ if(V(trig)>0, V(VCC),0)


* output pulse width controlled by external RC

Etime ctrl 0 VALUE=
+ {V(CEXT)}


Sout Q VCC ctrl 0 SW1


.model SW1 SW(
+ Ron=5
+ Roff=1Meg
+ Vt=0.5)


* output discharge
Rdis Q GND 10Meg


.ends
